US07915424B2
3-Bromo-5-(3-chlorophenylethynyl)-pyridine
Add triethylamine (2.38 mL, 16.88 mmol), copper (I) iodide (80.4 mg, 0.422 mmol) and bis(triphenylphosphine)palladium (II) dichloride (148 mg, 0.211 mmol) to a solution of 3,5-dibromopyridine (1 g, 4.22 mmol) and 1-chloro-3-ethynylbenzene, (prepared as described in PREPARATION 12), (574 mg, 4.22 mmol) in ethyl acetate (4.22 mL). Stir under nitrogen at 50° C. for 18 h. Concentrate and purify the residue by silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate, to give the title compound (571 mg, 46%).

reactant | triethylamine | 16.88 mmol, 2.38 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dibromopyridine | 4.22 mmol, 1 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 1-chloro-3-ethynylbenzene | 4.22 mmol, 574 mg | ClC1=CC(=CC=C1)C#C | C8H5Cl
solvent | ethyl acetate | 4.22 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.422 mmol, 80.4 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.211 mmol, 148 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Bromo-5-(3-chlorophenylethynyl)-pyridine | 571 mg, 46% | BrC=1C=NC=C(C1)C#CC1=CC(=CC=C1)Cl | C13H7BrClN
